simulator lang=spectre
global 0

ahdl_include "../submission/bbpd_data_edge_alignment_ref.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0.0
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=10n rise=50p fall=50p width=9n period=20n
Vdata (data 0) vsource type=pwl wave=[ \
0 0.0 \
7.95n 0.0   8.00n 0.9 \
27.95n 0.9  28.00n 0.0 \
47.95n 0.0  48.00n 0.9 \
67.95n 0.9  68.00n 0.0 \
91.95n 0.0  92.00n 0.9 \
111.95n 0.9 112.00n 0.0 \
131.95n 0.0 132.00n 0.9 \
151.95n 0.9 152.00n 0.0 \
170n 0.0 \
]
XDUT (vdd vss clk data up dn retimed_data) bbpd_data_edge_alignment_ref \
clk_period=20n clk_delay=10n deadzone=0.8n pulse_w=1n poll_dt=50p

tran tran stop=170n maxstep=0.1n
save vdd vss clk data up dn retimed_data
